US05162533
3-Cyano-2-(2-hydroxy-ethylamino)-5,4-bipyridine-1'-oxide
5 g 2-Chloro-3-cyano-5,4'-bipyridine-1'-oxide and 8 ml ethanolamine are refluxed in 50 ml ethanol for 4 hours and then concentrated under vacuum. The residue is taken up in water, filtered off with suction, washed with water, dried at 110° C. and crystallized from ethanol/glacial acetic acid with addition of activated charcoal. Yield: 4.5 g (81.3% of the theoretical yield), with a melting point of 229° C.-231° C.

reactant | 2-Chloro-3-cyano-5,4'-bipyridine-1'-oxide | 5 g | ClC1=NC=C(C=C1C#N)C1=CC=[N+](C=C1)[O-] | C11H6ClN3O
reactant | ethanolamine | 8 ml | C(O)CN | C2H7NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-Cyano-2-(2-hydroxy-ethylamino)-5,4-bipyridine-1'-oxide | C(#N)C=1C(=NC=C(C1)C1=CC=[N+](C=C1)[O-])NCCO | C13H12N4O2
